US07833632B2
(23-a) Synthesis of 2-bromo-9,10-di(2-naphthyl)-6-(2-phenyl-1H-benzimidazol-1-yl)anthracene
5.9 g (10 mmol) of 2,6-dibromo-9,10-di(2-naphthyl)anthracene, 2.2 g (11 mmol) of 2-phenyl-1H-benzimidazole, 0.19 g (1.0 mmol) of copper iodide, and 3.6 g (2.0 mmol) of 9,10-phenanthroline were dissolved into a 2 M solution of cesium carbonate in dimethylformamide (DMF), and the whole was refluxed under heating for 48 hours in an argon atmosphere. After the completion of the reaction, the resultant was filtered. The filtrate was poured into 1 L of 10-mass % hydrochloric acid, and the whole was extracted with methylene chloride. An organic layer was taken out and dried with magnesium sulfate, and then the solvent was distilled off under reduced pressure. The resultant solid was purified by means of silica gel column chromatography to obtain 2.5 g of a pale yellow solid (36% yield).

reactant | 2,6-dibromo-9,10-di(2-naphthyl)anthracene | 10 mmol, 5.9 g | BrC1=CC2=C(C3=CC=C(C=C3C(=C2C=C1)C1=CC2=CC=CC=C2C=C1)Br)C1=CC2=CC=CC=C2C=C1 | C34H20Br2
reactant | 2-phenyl-1H-benzimidazole | 11 mmol, 2.2 g | C1(=CC=CC=C1)C1=NC2=C(N1)C=CC=C2 | C13H10N2
reactant | 9,10-phenanthroline | 2.0 mmol, 3.6 g | C1=CC=CC2=CC=C3C=CN=NC3=C12 | C12H8N2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | copper iodide | 1.0 mmol, 0.19 g | [Cu](I)I
product | 2-bromo-9,10-di(2-naphthyl)-6-(2-phenyl-1H-benzimidazol-1-yl)anthracene | 2.5 g, 36% yield | BrC1=CC2=C(C3=CC=C(C=C3C(=C2C=C1)C1=CC2=CC=CC=C2C=C1)N1C(=NC2=C1C=CC=C2)C2=CC=CC=C2)C2=CC1=CC=CC=C1C=C2 | C47H29BrN2
